US08350029B2
Preparation of 6-(3-morpholino propoxy)-7-methoxy-4-chloroquinazoline (Formula VII)
DMF (3 lt), 6-(3-chloropropoxy)-7-methoxy-4-chloro quinazoline (200 gm) and morpholine (210 gm), were heated to 70-75° C. for 6-8 hours. The reaction mass was cooled to room temperature, and methylene chloride (2.5 lt) and water (2.5 lt) were charged. The layers separated and the aqueous layer extracted with methylene chloride twice (500 ml). The combined methylene chloride layer was washed with water, dried over sodium sulphate (10 gm) and concentrated completely at 35-40° C. to yield the title compound (200 gm, 85% yield).

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 6-(3-chloropropoxy)-7-methoxy-4-chloro quinazoline | 200 gm | ClCCCOC=1C=C2C(=NC=NC2=CC1OC)Cl | C12H12Cl2N2O2
reactant | morpholine | 210 gm | N1CCOCC1 | C4H9NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-(3-morpholino propoxy)-7-methoxy-4-chloroquinazoline | 200 gm, 85% yield | O1CCN(CC1)CCCOC=1C=C2C(=NC=NC2=CC1OC)Cl | C16H20ClN3O3
